US07504401B2
[3-Bromo-5-(4-methoxy-benzyloxy)-phenyl]-pyridin-3-yl-amine (193 mg, ca 0.5 mmol) was placed in a 5 mL glass reactor. Copper (I) iodide (0.5 mmol, 96 mg), potassium phosphate (213 mg, 1 mmol), toluene (3 mL), 5-cyanoindole (1.0 mmol, 142 mg) and N,N′-dimethylethylenediamine (53 mg, 0.6 mmol) were added to the reactor, and the sealed reactor was heated to 110° C. for 24 h. After cooling the reaction mixture to room temperature, the solution was filtered through a short pad of Celite®, and the filtrate was concentrated. The residue was extracted with methylene chloride and aqueous sodium bicarbonate solution. The organic layer was dried, concentrated, and the residue was purified by silica gel column (Biotage) using 2% MeOH in methylene chloride. Pure fractions were treated with 10% dimethylsulfide, 50% TFA in methylene chloride for 2 min. The volatiles were evaporated immediately with a stream of nitrogen with mild heating. The residue was purified by passing through a short pad of silica gel using 15% MeOH in methylene chloride as eluent to give 1-[3-hydroxy-5-(pyridin-3-ylamino)-phenyl]-1H-indole-5-carbonitrile (17.5 mg, 0.054 mmol) which solidified on standing. 1H NMR (400 MHz, CD3OD) δ 8.33 (d, J=2.4, 1H), 8.00-8.30 (m, 2H), 7.65 (d, J=8.8, 1H), 7.61 (m, 1H), 7.54 (d, J=3.2, 1H), 7.43 (dd, J=8.4, 1.2, 1H), 7.28 (dd, J=8.4, 4.8, 1H), 6.74 (d, J=3.2, 1H), 6.48 (m, 1H), 6.20-6.42 (m, 2H).

reactant | [3-Bromo-5-(4-methoxy-benzyloxy)-phenyl]-pyridin-3-yl-amine | ca 0.5 mmol, 193 mg | BrC=1C=C(C=C(C1)OCC1=CC=C(C=C1)OC)NC=1C=NC=CC1 | C19H17BrN2O2
reactant | potassium phosphate | 1 mmol, 213 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 5-cyanoindole | 1.0 mmol, 142 mg | C(#N)C=1C=C2C=CNC2=CC1 | C9H6N2
reactant | N,N′-dimethylethylenediamine | 0.6 mmol, 53 mg | CNCCNC | C4H12N2
catalyst | Copper (I) iodide | 0.5 mmol, 96 mg | [Cu]I
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | 1-[3-hydroxy-5-(pyridin-3-ylamino)-phenyl]-1H-indole-5-carbonitrile | 0.054 mmol, 17.5 mg | OC=1C=C(C=C(C1)NC=1C=NC=CC1)N1C=CC2=CC(=CC=C12)C#N | C20H14N4O
